US08309546B2
4-[2-(2-Aminopyrimidin-5-yl)-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-8-yl]piperazine-1-carboaldehyde
Benzotriazole-1-carboaldehyde (55 mg, 0.38 mmol) was dissolved in tetrahydrofuran (10 ml) followed by the addition of 5-[6-morpholin-4-yl-8-piperazin-1-yl-9-(2,2,2-trifluoroethyl)-9H-purin-2-yl]pyrimidin-2-amine trifluoroacetate (200 mg, 0.29 mmol). The resulting mixture was stirred for 20 minutes and the reaction mixture was diluted with ethyl acetate, washed with 1 M sodium hydroxide and saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel chromatography (chloroform:methanol=19:1) to give a white solid (80 mg, 56%).

reactant | Benzotriazole-1-carboaldehyde | 0.38 mmol, 55 mg | N1(N=NC2=C1C=CC=C2)C=O | C7H5N3O
reactant | 5-[6-morpholin-4-yl-8-piperazin-1-yl-9-(2,2,2-trifluoroethyl)-9H-purin-2-yl]pyrimidin-2-amine trifluoroacetate | 0.29 mmol, 200 mg | FC(C(=O)O)(F)F.N1(CCOCC1)C1=C2N=C(N(C2=NC(=N1)C=1C=NC(=NC1)N)CC(F)(F)F)N1CCNCC1
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[2-(2-Aminopyrimidin-5-yl)-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-8-yl]piperazine-1-carboaldehyde | 80 mg, 56% | NC1=NC=C(C=N1)C1=NC(=C2N=C(N(C2=N1)CC(F)(F)F)N1CCN(CC1)C=O)N1CCOCC1 | C20H23F3N10O2
